US05310753
3,4-Epoxy-2,2-dimethyl-6-phenylsulfonylchroman
To 100 ml of absolute DMSO are added 1.8 g (0.06 mol) of NaH as an 80% strength suspension in oil and, dropwise, 20 g of 3-bromo-4-hydroxy-2,2-dimethyl-6-phenylsulfonylchroman, dissolved in 80 ml of DMSO, the reaction temperature being kept at 25°-28° C. After stirring at room temperature for 2 hours, the mixture is stirred into ice water and the resulting precipitate is filtered off with suction. Further purification can be achieved by dissolving the crude product in ethyl acetate and treating it with active carbon. After evaporating the solvent, the residue is treated with diisopropyl ether until crystallization starts. Yield: 14.5 g; m.p.: 103°-105° C.

reactant | NaH | 0.06 mol, 1.8 g | [H-].[Na+]
reactant | 3-bromo-4-hydroxy-2,2-dimethyl-6-phenylsulfonylchroman | 20 g | BrC1C(OC2=CC=C(C=C2C1O)S(=O)(=O)C1=CC=CC=C1)(C)C | C17H17BrO4S
solvent | DMSO | 80 ml | CS(=O)C | C2H6OS
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 3,4-Epoxy-2,2-dimethyl-6-phenylsulfonylchroman | O1C2C(OC3=CC=C(C=C3C21)S(=O)(=O)C2=CC=CC=C2)(C)C | C17H16O4S
